US07053068B2
Preparation of a Pharmaceutical Formulation for Timolol Eye Drops
Timolol HCl (3-tert-butylamino-1-[(4-morpholino-1,2,5-thiadiazol-3-yl)oxy]-2-propanol) is a beta-blocker for treatment of glaucoma. The drug is dissolved in a final concentration of 0.5% (m/v) in 20 mM acetate buffer pH 5.2. After the addition of chitosan-4-thio-butyl-amidine conjugate in a final concentration of 0.1% (m/v) and a preservative in a final concentration of 0.03% (m/v), the pH-value is readjusted to pH 5.2. Remaining oxygen is removed by bubbling the solution with nitrogen. The resulting eye drops are filled up under inert conditions in multiple unit vessels of 10 ml. The vessels are than sealed with an aluminium-foil.

reactant | Timolol HCl | CC(C)(C)NC[C@@H](COC=1C(=NSN1)N2CCOCC2)O.Cl
solvent | acetate | 20 mM, pH 5.2 | C(C)(=O)[O-]
product | Timolol | CC(C)(C)NC[C@@H](COC=1C(=NSN1)N2CCOCC2)O | C13H24N4O3S
